US07572808B2
E. Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound (25 mg, 47% yield) as an off-white solid was prepared from 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (36 mg, 0.1 mmol) and 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine (31 mg, 0.15 mmol) in a manner analogous to that in which 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one was prepared. HPLC/MS: retention time=4.30 min, [M+H]+=529.1.

reactant | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.1 mmol, 36 mg | ClC1=C(C=CC=C1)C=1C(=CC=2N(C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C18H11Cl2N3O
reactant | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | 0.15 mmol, 31 mg | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
reactant | 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | BrC=1C=2N(C(=CC1C1=CC=C(C=C1)Cl)C)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C21H15BrClF3N4O
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 25 mg, 47% yield | ClC1=C(C=CC=C1)C=1C(=CC=2N(C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O)C2=CC=C(C=C2)Cl | C26H17Cl2F3N4O
